US08034938B2
tert-Butyl (4S)-4-[(3-aminoquinolin-4-yl)amino]-5-{[tert-butyl(dimethyl)silyl]oxy}pentylcarbamate (1.65 g, 3.48 mmol) was dissolved in 35 mL of anhydrous 1,2-dichloroethane and the solution was stirred under N2. Ethyl 2-chloroethanimidoate hydrochloride (1.18 g, 7.47 mmol) was then added and the reaction mixture was heated to 65° C. After stirring overnight, the reaction mixture was cooled and treated with 100 mL of saturated NaHCO3 solution and 100 mL of CHCl3. The layers were separated and the organic portion was washed successively with H2O and brine. The organic portion was dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 25-100% ethyl acetate/hexanes) gave tert-butyl (4S)-5-{[tert-butyl(dimethyl)silyl]oxy}-4-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]pentylcarbamate (1.36 g) as a golden foam.

reactant | tert-Butyl (4S)-4-[(3-aminoquinolin-4-yl)amino]-5-{[tert-butyl(dimethyl)silyl]oxy}pentylcarbamate | 3.48 mmol, 1.65 g | NC=1C=NC2=CC=CC=C2C1N[C@@H](CCCNC(OC(C)(C)C)=O)CO[Si](C)(C)C(C)(C)C | C25H42N4O3Si
reactant | Ethyl 2-chloroethanimidoate hydrochloride | 7.47 mmol, 1.18 g | Cl.ClCC(OCC)=N
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
reactant | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | 1,2-dichloroethane | 35 mL | ClCCCl | C2H4Cl2
product | tert-butyl (4S)-5-{[tert-butyl(dimethyl)silyl]oxy}-4-[2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]pentylcarbamate | 1.36 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CCCNC(OC(C)(C)C)=O)N1C(=NC=2C=NC=3C=CC=CC3C21)CCl | C27H41ClN4O3Si
